US09079853B2
5-chloro-1-ethyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5-chloro-1-ethylindoline-2,3-dione and 2-acetyl pyridine (purchased from Fisher Scientific). 1H-NMR δ 8.70 (ddd, 1H), 8.11 (dd, 1H), 7.93 (ddd, 1H), 7.57 (ddd, 1H), 7.31-7.27 (m, 2H), 6.79 (d, 1H), 5.5 (bs, OH), 3.77 (d, 1H), 3.74 (m, 2H), 3.53 (d, 1H), 1.27 (t, 3H). calculated mass for C17H15ClN2O3, 330.08, observed, 331.0 (M+1).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-chloro-1-ethylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC)=O)=O | C10H8ClNO2
reactant | 2-acetyl pyridine | C(C)(=O)C1=NC=CC=C1 | C7H7NO
product | 5-chloro-1-ethyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CC)=O)(CC(C1=NC=CC=C1)=O)O | C17H15ClN2O3
